US06514977B1
To a solution of 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate prepared in accordance with Example A-200 (0.9905 g, 3.5 mmol) and 1-hydroxybenzotriazole (0.4824 g, 3.57 mmol) in DMF (20 ml) at 0° C. under nitrogen, 1-(3-dimethylaminopropyl)3-ethylcarbodiiminde hydrochloride (0.6984 g, 3.57 mmol, Aldrich Chemical Co.) was added. The solution was stirred at 0° C. under nitrogen for 1 hour then 1-butoxycarbonylpiperazine (0.6585 g, 3.5 mmol) was added followed by N-methylmorpholine (0.40 ml, 3.6 mmol). The reaction was stirred from 0° C. to room temperature overnight. After 19 hours, the solvent was removed under reduced pressure, and resulting residue was diluted with ethyl acetate, washed with saturated NaHCO3 solution, water and brine, and dried over MgSO4. After filtration, the solvent was removed under reduced pressure to give a crude product (1.7595 g). 1,1-Dimethylethyl 4-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]carbonyl]-1-piperazinecarboxylate (1.2372 g, 78.4%) was obtained by chromatography. Anal. Calc'd for C24H26N5O3F. (451): C, 63.85; H, 5.80; N, 15.51; Found: C, 63.75; H, 5.71; N, 15.16. MS (MH+): 452 (base peak).

reactant | 5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazole-3-carboxylic acid, monohydrate | O.FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)O)C1=CC=NC=C1
reactant | 1-hydroxybenzotriazole | 3.57 mmol, 0.4824 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-butoxycarbonylpiperazine | 3.5 mmol, 0.6585 g | C(CCC)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-methylmorpholine | 3.6 mmol, 0.40 ml | CN1CCOCC1 | C5H11NO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 4-[[5-(4-fluorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]carbonyl]-1-piperazinecarboxylate | 1.2372 g, 78.4% | FC1=CC=C(C=C1)C1=C(C(=NN1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C24H26FN5O3
